US07375204B2
Thionyl chloride (4.7 ml, 66 mmol) was added dropwise to a solution of 4-n-butylbenzyl alcohol (9.6 g, 59 mmol) in ether (120 ml), and this mixture was stirred at room temperature for 2 hours. The solvent was removed under reduced pressure, and excess thionyl chloride was removed by azeotropic distillation with benzene. The residue was dissolved in dimethyl sulfoxide (50 ml), sodium cyanide (86 g, 1.8 mol) and n-tetrabutylammonium iodide (2.2 g, 5.9 mmol) were added to this solution, and the resulting mixture was stirred at room temperature for 16 hours. Water was added, and this mixture was extracted with ethyl acetate. The ethyl acetate layer was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give n-butylphenylacetonitrile (8.2 g) as a yellow oil. Next, concentrated sulfuric acid (48 ml) was added dropwise to water (58 ml), this solution was cooled to 50° C., and n-Butylphenylacetonitrile (8.2 g) obtained above was added dropwise to the solution. The resulting mixture was stirred while heating under reflux for 16 hours. Upon cooling to room temperature, the precipitated crystals were collected by filtration, washed with water, and dissolved in a 0.1 N aqueous sodium hydroxide solution (200 ml). Norit (5 g) was added, and this mixture was stirred and refluxed for 2 hours. After Norit was removed by filtration through celite, the filtrate was cooled to room temperature and acidified with 1 N hydrochloric acid to precipitate crystals. The precipitated crystals were collected by filtration, washed with water, and dried to give the title compound (3.5 g).

reactant | Thionyl chloride | 66 mmol, 4.7 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-n-butylbenzyl alcohol | 59 mmol, 9.6 g | C(CCC)C1=CC=C(CO)C=C1 | C11H16O
reactant | sodium cyanide | 1.8 mol, 86 g | [C-]#N.[Na+]
reactant | Water | O | H2O
reactant | ether | 120 ml | CCOCC | C4H10O
product | n-butylphenylacetonitrile | 8.2 g | C(CCC)C(C#N)C1=CC=CC=C1 | C12H15N
